US04929741
A solution of 5 g (20 mmol) of methyl 3-(2,5-dimethoxybenzoyl)propiolate in 50 ml of tetrahydrofuran was treated slowly at 0° with 56 ml of 3% potassium hydroxide solution and stirred at 0° for a further 1 hour. The reaction mixture was treated with water and extracted once with ether. The ether phase was discarded. The aqueous phase was adjusted to pH 1 with 1N hydrochloric acid and extracted twice with ether. The combined organic phases were dried over sodium sulphate and concentrated. Crystallization of the residue from ether/hexane yielded 3-(2,5-dimethoxybenzoyl)propiolic acid of melting point 91°-93°.

reactant | methyl 3-(2,5-dimethoxybenzoyl)propiolate | 20 mmol, 5 g | COC1=C(C(=O)C#CC(=O)OC)C=C(C=C1)OC | C13H12O5
reactant | potassium hydroxide | 56 ml | [OH-].[K+]
reactant | water | O | H2O
solvent | tetrahydrofuran | 50 ml | O1CCCC1 | C4H8O
product | 3-(2,5-dimethoxybenzoyl)propiolic acid | COC1=C(C(=O)C#CC(=O)O)C=C(C=C1)OC | C12H10O5
